US07396847B2
(5R)-3-{2-Fluoro-4′-[(5R)-5-(hydroxymethyl)-2-oxo-1,3-oxazolidin-3-yl]-1,1′-biphenyl-4-yl}-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
(5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-(4′-{(5R)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-1,3-oxazolidin-2-one (0.016 g, 0.030 mM) was suspended in tetrahydrofuran (0.5 ml) and a 1N solution of tetrabutylammoniumfluoride in tetrahydrofuran (0.03 ml) was added. The reaction was stirred at room temperature for one hour. The cloudy suspension was concentrated as a white residue.

reactant | (5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-(4′-{(5R)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-2-oxo-1,3-oxazolidin-3-yl}-1,1′-biphenyl-4-yl)-1,3-oxazolidin-2-one | 0.030 mM, 0.016 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C29H37N5O5Si
reactant | tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.03 ml | O1CCCC1 | C4H8O
product | (5R)-3-{2-Fluoro-4′-[(5R)-5-(hydroxymethyl)-2-oxo-1,3-oxazolidin-3-yl]-1,1′-biphenyl-4-yl}-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O)C1=CC=C(C=C1)N1C(O[C@H](C1)CO)=O | C23H22FN5O5
